US07087626B2
4-[2-(6-Vinyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline
Add tributylvinyltin (0.059 mL, 0.19 mmol) to a solution of 4-[2-(6-chloro-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline, EXAMPLE 101, (59 mg, 0.17 mmol) in toluene (0.7 mL) at RT. Bubble nitrogen into the reaction mixture for 5 min and add tetrakis-(triphenylphosphine) palladium (0) (10 mg, 0.0085 mmol). Bubble nitrogen into the solution for an additional 2 min and heat the reaction to 110° C. for 18 h. Concentrate the reaction in vacuo and purify by flash column chromatography (SiO2, 20-40% acetone/hexanes) to provide the title compound (35 mg, 62%) as a white solid.

reactant | tributylvinyltin | 0.19 mmol, 0.059 mL | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | 4-[2-(6-chloro-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline | ClC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC=CC=C21 | C20H15ClN4
solvent | toluene | 0.7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphine) palladium (0) | 0.0085 mmol, 10 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[2-(6-Vinyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-quinoline | 35 mg, 62% | C(=C)C1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC=CC=C21 | C22H18N4
